US06429214B1
3-(6-Methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acrylic acid ethyl ester
A suspension of 3-(2-chloro-6-methoxy-quinolin-3-yl)-acrylic acid ethyl ester (20.2 g, 69.2 mmol) in ethanol (175 mL) was treated with 12 N aqueous HCl and heated to reflux to form a solution. After 21 h, the resulting precipitate was cooled to 0° C. for 1 h. Vacuum filtration gave the title compound (18.0 g, 95% yield) as a yellow crystalline solid.

reactant | 3-(2-chloro-6-methoxy-quinolin-3-yl)-acrylic acid ethyl ester | 69.2 mmol, 20.2 g | C(C)OC(C=CC=1C(=NC2=CC=C(C=C2C1)OC)Cl)=O | C15H14ClNO3
reactant | HCl | 12 N | Cl | ClH
reactant | ethanol | 175 mL | C(C)O | C2H6O
product | 3-(6-Methoxy-2-oxo-1,2-dihydro-quinolin-3-yl)-acrylic acid ethyl ester | 18.0 g, 95% yield | C(C)OC(C=CC=1C(NC2=CC=C(C=C2C1)OC)=O)=O | C15H15NO4
